US07888364B2
119 mg of (S)-styrene oxide was reacted with methyl 2-chloro-4-mercaptobenzoate via Procedure S to afford (S)-methyl 2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoate. 230 mg of (S)-methyl-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoate was hydrolyzed via Procedure M to give (S)-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoic acid. 180 mg of (S)-2-chloro-4-(2-hydroxy-2-phenylethylthio)benzoic acid was reacted via Procedure R to give (S)-2-chloro-4-(2-hydroxy-2-phenylethylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridine-2-yl)aniline was coupled to (S)-2-chloro-4-(2-hydroxy-2-phenylethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield (S)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxy-2-phenylethylsulfonyl)benzamide. MS (Q1) 527.0 (M)+.

reactant | 4-chloro-3-(pyridine-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | (S)-2-chloro-4-(2-hydroxy-2-phenylethylsulfonyl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C[C@H](C1=CC=CC=C1)O | C15H13ClO5S
product | (S)-2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxy-2-phenylethylsulfonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)S(=O)(=O)C[C@H](C1=CC=CC=C1)O | C26H20Cl2N2O4S
